US04234592
To a solution of 20.0 g (0.17 mole) of thiophosgene in 100 ml. of chloroform cooled to 0° C. was added dropwise with stirring 20.2 g (0.17 mole) of cyclohexyl mercaptan. To this mixture was added dropwise a solution of 2.5 g of sodium hydroxide in 25 ml. of water at such a rate as to keep the temperature less than 8° C. When the addition was complete, the chloroform layer was separated and dried over calcium chloride. The solvent was evaporated, and the residue was distilled under reduced pressure to give 26.4 g of yellow cyclohexyl dichloromethyl disulfide, b.p. 118°-125° C. (5 Torr.)

reactant | thiophosgene | 0.17 mole, 20.0 g | C(=S)(Cl)Cl | CCl2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | cyclohexyl mercaptan | 0.17 mole, 20.2 g | C1(CCCCC1)S | C6H12S
reactant | sodium hydroxide | 2.5 g | [OH-].[Na+]
solvent | water | O | H2O
product | cyclohexyl dichloromethyl disulfide | 26.4 g | ClC(Cl)SSC1CCCCC1 | C7H12Cl2S2
